simulator lang=spectre
global 0
; NOTE: replace with your own PDK model file. Original: CSMC 0.18um, sm1816m50v13_usage.scs, section=tt_lib
include "/path/to/your/pdk/model.scs" section=tt_lib

subckt NGCC VINN VINP VOUT IBIAS VDD VSS
NM9 (net041 net035 VSS VSS) mn18 w=1.953e-05 l=7.498e-07 m=26 ////the **Load** transistor of the 2nd stage
NM7 (IBIASP IBIAS VSS VSS) mn18 w=2e-07 l=5e-07 ////bias transistor. should not be changed
NM6 (IBIAS IBIAS VSS VSS) mn18 w=2e-07 l=5e-07  ////bias transistor. should not be changed
NM5 (net020 IBIAS VSS VSS) mn18 w=3.733e-06 l=9.593e-07 m=1 ////
NM4 (VOUT net041 VSS VSS) mn18 w=1.984e-05 l=6.61e-07 m=29 ////**Input** transistor of the Load stage
NM0 (net27 VINN net26 VSS) mn18 w=1.958e-05 l=1.297e-06 m=16 ////**Input** transistor of 1st(gm1) stage ``NM1``
NM8 (net035 net035 VSS VSS) mn18 w=1.688e-05 l=8.284e-07 m=3 ////the **Load** transistor of the 2nd stage
NM2 (net26 IBIAS VSS VSS) mn18 w=1.702e-05 l=1.722e-06 m=4 ////current tail transistor of the 1st stage
NM1 (net28 VINP net26 VSS) mn18 w=1.958e-05 l=1.297e-06 m=16 ////**Input** transistor of 1st(gm1) stage ``NM0``
PM9 (VOUT net28 VDD VDD) mp18 w=1.945e-05 l=1.435e-06 m=27 ////the **Input** transistor of gmf2
PM8 (net035 net28 VDD VDD) mp18 w=1.998e-05 l=6.737e-07 m=35 ////**Input** transistor of the 2nd stage
PM7 (net041 IBIASP VDD VDD) mp18 w=1.79e-05 l=5.49e-07 m=5 ////**Load** transistor of the 2nd stage
PM6 (IBIASP IBIASP VDD VDD) mp18 w=2e-07 l=5e-07 ////bias transistor. should not be changed
PM5 (VOUT net020 VDD VDD) mp18 w=1.91e-05 l=7.595e-07 m=13 ////the Input transistor of the gmf1
PM4 (net020 net020 VDD VDD) mp18 w=1.913e-05 l=1.342e-06 m=16 ////
PM3 (net020 net27 VDD VDD) mp18 w=1.901e-05 l=1.776e-06 m=9 ////
PM2 (VOUT IBIASP VDD VDD) mp18 w=1.909e-05 l=1.615e-06 m=19 ////**Load** transistor of the Load stage
PM1 (net27 net27 VDD VDD) mp18 w=1.99e-05 l=1.493e-06 m=43 ////Load transistor of the 1st stage ``PM0``
PM0 (net28 net27 VDD VDD) mp18 w=1.99e-05 l=1.493e-06 m=43 ////**Load** transistor in the 1st stage ``PM1``
C1 (net041 VOUT) capacitor c=9.457e-13 m=1 ////miller cap between the 2nd stage and the output
C0 (net28 VOUT) capacitor c=2.123e-12 m=1 ////miller cap between the 1st stage and the output
ends NGCC



            V0 (VSS 0) vsource dc=0 type=dc
            V1 (VDD 0) vsource dc=1.8 type=dc
            C0 (VOUT VSS) capacitor c=5e-11
            I0 (VDD IBIAS) isource dc=3e-07 type=dc
            V2 (VINP 0) vsource dc=0.9 type=dc
            IPRB0 (VINN VOUT) iprobe
            I1 (VINN VINP VOUT IBIAS VDD VSS) NGCC
            